US07863442B2
4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine (5 g, 0.02 mol), N-methylpiperazine (12.5 mL, 2.5 vol) and ethanol (15 mL, 3 vol) were charged into a three-necked round bottom flask equipped with a reflux condenser, overhead stirrer, and thermometer. The reaction mixture was slowly heated to reflux (94° C.) under a nitrogen atmosphere and kept at this temperature overnight. The reaction mixture was cooled to below 50° C. and water (10 mL, 2 vol) was added to precipitate out the solid, which was isolated by filtration. The light yellow solid was washed twice with water (5 mL) and dried to furnish pure olanzapine in 72% yield (4.2 g).

reactant | 4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine | 0.02 mol, 5 g | NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C | C12H11N3S
reactant | N-methylpiperazine | 12.5 mL | CN1CCNCC1 | C5H12N2
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | olanzapine | 72% yield | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
